US07968542B2
Synthesis of 5-hydrazinocarbonylthiophene-2-carboxylic acid (2-pyridin-4-yl)ethylamide
Methyl 5-[2-(pyridin-4-yl)ethylcarbamoyl]thiophene-2-carboxylate (0.40 g, 1.4 mmol) was suspended in a liquid mixture of methanol (4.0 mL) and tetrahydrofuran (2.0 mL) and left at 55° C. until conversion to a homogeneous amber solution was confirmed. After addition of 80% hydrazine monohydrate (0.17 mL, 2.8 mmol), it was left at 55° C. for 24 hours. After addition of 80% hydrazine monohydrate (0.17 mL, 2.8 mmol), it was left at 55° C. for 4.5 hours and then at room temperature for 14 hours. The precipitated solid was recovered by filtration and dried to give the desired product, 5-hydrazinocarbonylthiophene-2-carboxylic acid (2-pyridin-4-yl)ethylamide (yield 82%).

reactant | Methyl 5-[2-(pyridin-4-yl)ethylcarbamoyl]thiophene-2-carboxylate | 1.4 mmol, 0.40 g | N1=CC=C(C=C1)CCNC(=O)C1=CC=C(S1)C(=O)OC | C14H14N2O3S
reactant | methanol | 4.0 mL | CO | CH4O
reactant | hydrazine monohydrate | 2.8 mmol, 0.17 mL | O.NN
reactant | hydrazine monohydrate | 2.8 mmol, 0.17 mL | O.NN
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 5-hydrazinocarbonylthiophene-2-carboxylic acid (2-pyridin-4-yl)ethylamide | yield 82% | N1=CC=C(C=C1)CCNC(=O)C=1SC(=CC1)C(=O)NN | C13H14N4O2S
